US09447035B2
To a solution of (S)-3-[4-(2,6-dichlorobenzoylamino)phenyl]-2-(2,6-dichloro-4-triisopropylsilanyloxy-benzoylamino)propionic acid methyl ester (6.76 g, 9.48 mmol) in THF (150 mL) was added a solution of TBAF (14.22 mL, 14.22 mmol, 1M) in THF at 0° C. The resulting solution was slowly warmed to room temperature and stirred for 15 h. Then, the reaction mixture was diluted with water and the organic compound was extracted into ethyl acetate (2×150 mL). The combined organic layer was washed with brine solution and dried over anhydrous MgSO4. Filtration and concentration gave the crude residue which was dissolved in ethyl acetate in hot conditions and then diluted with hexanes. The resulting solids were collected by filtration and washed with hexanes. After drying in air, 5.23 g (99%) of (S)-3-[4-(2,6-dichlorobenzoylamino)phenyl]-2-(2,6-dichloro-4-hydroxy-benzoylamino)propionic acid methyl ester was obtained as a white solid. ES(+)-HRMS m/e calcd. for C24H18Cl4N2O5 (M−H)− 552.9897, obsd. 552.9897.

reactant | (S)-3-[4-(2,6-dichlorobenzoylamino)phenyl]-2-(2,6-dichloro-4-triisopropylsilanyloxy-benzoylamino)propionic acid methyl ester | 9.48 mmol, 6.76 g | COC([C@H](CC1=CC=C(C=C1)NC(C1=C(C=CC=C1Cl)Cl)=O)NC(C1=C(C=C(C=C1Cl)O[Si](C(C)C)(C(C)C)C(C)C)Cl)=O)=O | C33H38Cl4N2O5Si
reactant | TBAF | 14.22 mmol, 1M, 14.22 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-3-[4-(2,6-dichlorobenzoylamino)phenyl]-2-(2,6-dichloro-4-hydroxy-benzoylamino)propionic acid methyl ester | 5.23 g, 99% | COC([C@H](CC1=CC=C(C=C1)NC(C1=C(C=CC=C1Cl)Cl)=O)NC(C1=C(C=C(C=C1Cl)O)Cl)=O)=O | C24H18Cl4N2O5
